US06852751B2
2-[2,2-Difluoro-2-(4′-methoxy-biphenyl-4-yl)-ethyl]-4-hydroxy-5-phenylsulfanyl-pentanoic acid.
3-[2,2-Difluoro-2-(4′-methoxy-biphenyl-4-yl)-ethyl]-5-phenylsulfanylmethyl-dihydro-furan-2-one. A solution of phenylthiol (0.65 mmol) in THF (5 mL) is treated with BuLi (0.65 mmol) at −20° C. After being stirred for 20 min at −20° C., Example 18d (0.5 mmol) in THF (5 mL) is added dropwise. The mixture is allowed to warm to 0° C. and kept at that temperature for 2 hours, then is warmed up to room temperature and stirred for 3 hours. The reaction is quenched with saturated NH4Cl, neutralized with 1N HCl and extracted with ethyl acetate. The combined organic layers are washed with brine and dried over MgSO4. The crude material obtained after evaporation of solvents is purified by flash chromatography (3/1 hexane/acetone) and recrystallized from hexane/acetone to give the desired compound as colorless needles: mp 117-118° C.

reactant | 3-[2,2-Difluoro-2-(4′-methoxy-biphenyl-4-yl)-ethyl]-5-phenylsulfanylmethyl-dihydro-furan-2-one | FC(CC1C(OC(C1)CSC1=CC=CC=C1)=O)(C1=CC=C(C=C1)C1=CC=C(C=C1)OC)F | C26H24F2O3S
reactant | phenylthiol | 0.65 mmol | C1=CC=C(C=C1)S | C6H6S
reactant | BuLi | 0.65 mmol | [Li]CCCC
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[2,2-Difluoro-2-(4′-methoxy-biphenyl-4-yl)-ethyl]-4-hydroxy-5-phenylsulfanyl-pentanoic acid | FC(CC(C(=O)O)CC(CSC1=CC=CC=C1)O)(C1=CC=C(C=C1)C1=CC=C(C=C1)OC)F | C26H26F2O4S
